US07312234B2
AMD9367: Preparation of N-Pyridin-2-ylmethyl-4-[(5,6,7,8-tetrahydro-quinolin-8-ylamino)-methyl]-benzenesulfonamide
To a stirred solution of 4-bromomethyl-benzenesulfonyl chloride (500 mg, 1.85 mmol) and Et3N (269 uL, 1.85 mmol) in CH2Cl2 (10 mL), at −78° C., was added aminomethyl pyridine (190 uL, 1.85 mmol) in one portion. The resultant solution was stirred at −78° C. for 20 minutes. A second portion of Et3N (269 uL, 1.85 mmol) was added, followed by addition of 8-amino-5,6,7,8-tetrahydroquinoline (274 mg, 1.85 mmol). The solution was stirred for 18 h at room temperature. The mixture was diluted with CH2Cl2 (100 mL/mmol), filtered through celite, and concentrated. The crude material was purified by chromatography on silica gel (CH2Cl2/MeOH/NH4OH 48:1:1) to give AMD9367 (150 mg, 20%) as a white foam. 1H NMR (300 MHz, CD3COCD3) δ 1.69-1.98 (m, 2H), 2.00-2.05 (m, 1H), 2.11-2.18 (m, 1H), 2.71-2.85 (m, 3H), 3.82 (m, 1H), 3.96 (d, 2H, J=6.0 Hz), 4.23 (br s, 2H), 6.10 (br s, 1H), 7.05-7.15 (m, 3 H), 7.38 (d, 1H, J=7.8 Hz), 7.49 (d, 2H, J=9.0 Hz), 7.55-7.58 (m, 1H), 7.79 (d, 2H, J=9.0 Hz), 8.39 (d, 1H, J=4.8 Hz), 8.44 (d, 1H, J=4.5 Hz), 13C NMR (75.5 MHz, CD3COCD3) δ 20.05, 29.14, 29.20, 47.79, 51.70, 58.09, 122.39, 123.01, 127.68, 129.07, 132.90, 137.17, 137.40, 138.24, 146.62, 147.24, 149.38, 155.21, 157.54. ES-MS m/z 409 (M+H). Anal. Calcd. for C22H24N4O2S.0.2H2O: C, 64.12; H, 5.97; N, 13.59. Found: C, 64.10; H, 5.91; N, 13.71.

reactant | 4-bromomethyl-benzenesulfonyl chloride | 1.85 mmol, 500 mg | BrCC1=CC=C(C=C1)S(=O)(=O)Cl | C7H6BrClO2S
reactant | Et3N | 1.85 mmol, 269 uL | CCN(CC)CC | C6H15N
reactant | aminomethyl pyridine | 1.85 mmol, 190 uL | NCC1=NC=CC=C1 | C6H8N2
reactant | Et3N | 1.85 mmol, 269 uL | CCN(CC)CC | C6H15N
reactant | 8-amino-5,6,7,8-tetrahydroquinoline | 1.85 mmol, 274 mg | NC1CCCC=2C=CC=NC12 | C9H12N2
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | N-Pyridin-2-ylmethyl-4-[(5,6,7,8-tetrahydro-quinolin-8-ylamino)-methyl]-benzenesulfonamide | N1=C(C=CC=C1)CNS(=O)(=O)C1=CC=C(C=C1)CNC1CCCC=2C=CC=NC12 | C22H24N4O2S
